US04020094
0.51 G. of β-N,N-dimethylaminoethyl 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate is dissolved in about 25 ml. of diethyl ether and hydrochloric acid gas is passed therethrough to give a precipitate. The ether is decanted, and the precipitate washed with ether, dried under vacuum, and then recrystallized from isopropanol/ether to give β-N,N-dimethylaminoethyl 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate hydrochloride (m.p. 136°-137° C).

reactant | β-N,N-dimethylaminoethyl 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)OCCN(C)C)C)C=CC=C2 | C22H23NO3
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | β-N,N-dimethylaminoethyl 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate hydrochloride | Cl.O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)OCCN(C)C)C)C=CC=C2 | InChI=1S/C22H23NO3.ClH/c1-15(22(25)26-13-12-23(2)3)17-10-11-20-18(14-17)9-8-16-6-4-5-7-19(16)21(20)24;/h4-11,14-15H,12-13H2,1-3H3;1H
